US06521754B2
Rac-[7-(2-Bromo-1-hydroxy-ethyl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyll ester
1.5 g of (4-methoxy-7-vinyl-benzothiazol-2-yl)-carbamic acid methyll ester (0.0057 Mol), dissolved in THF (60 ml) were treated with H2O (6 ml) and 1.0 g of NBS (0.006 Mol) at room temperature for 15 min. Then the solvent was removed, the residue taken up in H2O (30 ml) and extracted four times with ethyl acetate (50 ml). The combined organic phases were washed with brine and dried over MgSO4. After evaporation the crude product was subjected to column chromatography (silicagel, ethyl acetate). The title compound was obtained as a white solid (78%), F.p.: 150-155° C.

reactant | (4-methoxy-7-vinyl-benzothiazol-2-yl)-carbamic acid | 0.0057 Mol, 1.5 g | COC1=CC=C(C2=C1N=C(S2)NC(O)=O)C=C | C11H10N2O3S
reactant | H2O | 6 ml | O | H2O
reactant | NBS | 0.006 Mol, 1.0 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | Rac-[7-(2-Bromo-1-hydroxy-ethyl)-4-methoxy-benzothiazol-2-yl]-carbamic acid | BrCC(O)C1=CC=C(C=2N=C(SC21)NC(O)=O)OC | C11H11BrN2O4S
